### PR TITLE
[Merged by Bors] - chore(RingTheory/Ideal/Over): factor going-up results out

### PR DESCRIPTION
**Pull request by chrisflav**
Also move `Ideal.comap_map_eq_self_iff_of_isPrime` to `Mathlib.RingTheory.Localization.AtPrime`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Localization/AtPrime.lean [hunk 1]
```diff
@@ -55,6 +55,19 @@ lemma disjoint_map_primeCompl_iff_comap_le {S : Type*} [Semiring S] {f : R →+*
...
+lemma comap_map_eq_self_iff_of_isPrime {S : Type*} [CommRing S] {f : R →+* S}
+    (p : Ideal R) [p.IsPrime] :
+    (p.map f).comap f = p ↔ (∃ (q : Ideal S), q.IsPrime ∧ q.comap f = p) := by
+  refine ⟨fun hp ↦ ?_, ?_⟩
+  · obtain ⟨q, hq₁, hq₂, hq₃⟩ := Ideal.exists_le_prime_disjoint _ _
+      (disjoint_map_primeCompl_iff_comap_le.mpr hp.le)
+    exact ⟨q, hq₁, le_antisymm (disjoint_map_primeCompl_iff_comap_le.mp hq₃)
+      (map_le_iff_le_comap.mp hq₂)⟩
+  · rintro ⟨q, hq, rfl⟩
+    simp
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/AtPrime.lean:69]: The file up to this point probably doesn't belong here.

Comment (chrisflav) [reply Mathlib/RingTheory/Localization/AtPrime.lean:69]: Then make a suggestion where it should go instead.

Comment (erdOne) [reply Mathlib/RingTheory/Localization/AtPrime.lean:69]: Perhaps `primeCompl` into `RingTheory/Ideal/Prime` and `disjoint_map_primeCompl_iff_comap_le` and `comap_map_eq_self_iff_of_isPrime` into `RingTheory/Ideal/Maps`. `primeCompl_le_nonZeroDivisors` could be left here if there is not an obvious place to go but arguably it shouldn't be here as well.

File: Mathlib/RingTheory/Ideal/Over.lean [hunk 2]
```diff
@@ -37,18 +32,6 @@ section CommRing
...
-    (p.map f).comap f = p ↔ (∃ (q : Ideal S), q.IsPrime ∧ q.comap f = p) := by
-  refine ⟨fun hp ↦ ?_, ?_⟩
-  · obtain ⟨q, hq₁, hq₂, hq₃⟩ := Ideal.exists_le_prime_disjoint _ _
-      (disjoint_map_primeCompl_iff_comap_le.mpr hp.le)
-    exact ⟨q, hq₁, le_antisymm (disjoint_map_primeCompl_iff_comap_le.mp hq₃)
-      (map_le_iff_le_comap.mp hq₂)⟩
-  · rintro ⟨q, hq, rfl⟩
-    simp
-
 theorem coeff_zero_mem_comap_of_root_mem_of_eval_mem {r : S} (hr : r ∈ I) {p : R[X]}
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Over.lean:35]: I think this and the polynomial lemmas below could be moved into going up as well. In that case probably we won't need to import polynomial in this file?

**Comment by erdOne** [comment]
Just a reminder that it has not passed CI yet -- there seems to be more shake to be done.

**Comment by chrisflav** [comment]
> Just a reminder that it has not passed CI yet -- there seems to be more shake to be done.

Thanks a lot for the reminder, I hadn't noticed. Now it's fixed.

**Comment by erdOne** [comment]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
